US05391553
7-Cyclohexyl-9-hydroxy-1,2,3,4-tetrahydroacridine
4-Cyclohexylamine (23.15 g) and 2-ethoxycarbonylcyclohexanone (25.0 g) were stirred in 100 mL of benzene containing 0.20 g of p-toluenesulfonic acid monohydrate. After stirring for 4 hours at room temperature the reaction mixture was refluxed for 3 hours with the separation of water. At the end of this time the benzene was evaporated and the residue was dissolved in 150 mL of phenyl ether and the resultant mixture refluxed for 30 minutes. The product which separated upon cooling was filtered off and washed with ether to give 18.22 g of product which was analytically pure without further purification, mp 292°-295° C.

reactant | 4-Cyclohexylamine | 23.15 g | C1CCC(CC1)N | C6H13N
reactant | 2-ethoxycarbonylcyclohexanone | 25.0 g | C(C)OC(=O)C1C(CCCC1)=O | C9H14O3
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | benzene | 100 mL, 0.20 g | C1=CC=CC=C1 | C6H6
product | 7-Cyclohexyl-9-hydroxy-1,2,3,4-tetrahydroacridine | 18.22 g | C1(CCCCC1)C1=CC=C2N=C3CCCCC3=C(C2=C1)O | C19H23NO
